US07465731B2
EDCI (0.30 g) was added to the solution of (2E)-3-(2-{[1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-1,3-thiazol-4-yl)acrylic-acid (0.6 g), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (0.22 g), and HOBT (0.26 g) in DMF (10 ml) under ice-cooling and the mixture was stirred at ambient temperature for 20 hours. The reaction mixture was poured into a mixture of AcOEt and water. The separated organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo to give (2E)-3-(2-{[1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-1,3-thiazol-4-yl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (0.66 g).

reactant | EDCI | 0.30 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | (2E)-3-(2-{[1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-1,3-thiazol-4-yl)acrylic-acid | 0.6 g | ClC1=CC=C(C(=O)N2CC(CC2)NC=2SC=C(N2)/C=C/C(=O)O)C=C1 | C17H16ClN3O3S
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 0.22 g | O1C(CCCC1)ON | C5H11NO2
reactant | HOBT | 0.26 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (2E)-3-(2-{[1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-1,3-thiazol-4-yl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 0.66 g | ClC1=CC=C(C(=O)N2CC(CC2)NC=2SC=C(N2)/C=C/C(=O)NOC2OCCCC2)C=C1 | C22H25ClN4O4S
